US06420418B1
2-Phenyl-2-tetrahydrofuroic Acid
To a solution of ethyl 2-phenyl-2-tetrahydrofuroate (170 mg, 0.77 mmol) in methanol (6 ml) was added 0.5N NaOH (1.5 ml, 0.75 mmol). After stirring at room temperature overnight, it was partitioned between dilute acetic acid and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layer was washed with brine and dried over MgSO4, filtered and concentrated to afford the title compound as a white crystalline solid which was used without further purification. 400 MHz 1H NMR (CD3OD): δ 7.54 (m, 2H); 7.34 (m, 3H); 4.07 (m, 2H); 2.79 (m, 1H); 2.18 (m, 1H); 1.98 (m, 2H).

reactant | ethyl 2-phenyl-2-tetrahydrofuroate | 0.77 mmol, 170 mg | C1(=CC=CC=C1)C1(OCCC1)C(=O)OCC | C13H16O3
reactant | NaOH | 0.75 mmol, 0.5N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 2-Phenyl-2-tetrahydrofuroic Acid | C1(=CC=CC=C1)C1(OCCC1)C(=O)O | C11H12O3
